US08541445B2
Step 3: 1-trityl-1H-pyrazolo[3,4-b]pyridine-4-carbothioamide
A solution of 1-tritylpyrazolo[5,4-b]pyridine-4-carboxamide (2.843 g, 7.029 mmol) in THF (50 mL) was treated with Lawesson's reagent (2.843 g, 7.029 mmol) at RT under nitrogen. The resulting yellow solution was allowed to heat at 80° C. for 4 hours and then treated with brine and extracted with EtOAc (2×). The organics were dried (Na2SO4), filtered, concentrated and purified by column chromatography (2% MeOH/DCM) to give the product as a yellow foam (quantitative yield). 1H NMR (DMSO, 400 MHz) δ 7.18-7.30 (16H, m), 8.28 (1H, m), 8.40 (1H, s), 10.34 (1H, br s); MS (ES+) 421.16

reactant | 1-tritylpyrazolo[5,4-b]pyridine-4-carboxamide | 7.029 mmol, 2.843 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC2=C1N=CC=C2C(=O)N | C26H20N4O
reactant | Lawesson's reagent | 7.029 mmol, 2.843 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 1-trityl-1H-pyrazolo[3,4-b]pyridine-4-carbothioamide | quantitative yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC2=C1N=CC=C2C(N)=S | C26H20N4S
